US07737166B2
7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(piperidin-1-ylcarbonyl)-1,3-benzoxazole-2-carbonitrile (#43)
Under nitrogen atmosphere, a dimethyl sulfoxide (700 μl) solution of (3S)-3-(dimethylamino)pyrrolidine (24 μl, 192 μmol) was added at 150° C. to a dimethyl sulfoxide (2.5 ml) solution of 7-fluoro-5-methyl-6-phenyl-2-(piperidin-1-ylcarbonyl)-1,3-benzoxazole-4-carbonitrile (I-117) (58 mg, 160 μmol) and triethylamine (29 μl, 208 μmol), followed by stirring at the same temperature for 75 minutes. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the obtained organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (20:1, v/v) gave a crude product of the entitled compound as a solid, and the solid was recrystallized from diisopropyl ether/n-hexane to obtain the entitled compound (23 mg, 31%) as a pale yellow solid.

reactant | dimethyl sulfoxide | 700 μl | CS(=O)C | C2H6OS
reactant | (3S)-3-(dimethylamino)pyrrolidine | 192 μmol, 24 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
reactant | 7-fluoro-5-methyl-6-phenyl-2-(piperidin-1-ylcarbonyl)-1,3-benzoxazole-4-carbonitrile | 160 μmol, 58 mg | FC=1C(=C(C(=C2N=C(OC21)C(=O)N2CCCCC2)C#N)C)C2=CC=CC=C2 | C21H18FN3O2
reactant | triethylamine | 208 μmol, 29 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(piperidin-1-ylcarbonyl)-1,3-benzoxazole-2-carbonitrile | CN([C@@H]1CN(CC1)C1=C(C(=CC=2NC(OC21)(C#N)C(=O)N2CCCCC2)C)C2=CC=CC=C2)C | C27H33N5O2
